US08039472B2
(R)-3-[4-((R)-4,5-Diamino-pentyl)-phenoxy]-propane-1,2-diol
{(R)-2-tert-Butoxycarbonylamino-5-[4-((R)-2,3-dihydroxy-propoxy)-phenyl]-pentyl}-carbamic acid tert-butyl ester (94 mg, 0.201 mmol) is stirred with a solution of 1 M HCl in Et2O (3 ml) for 18 hours and then loaded onto a 1 g SCX-2 cartridge washed with MeOH (30 ml), followed by 7M NH3 in MeOH (30 ml). The NH3 fraction is concentrated in vacuo to give the title compound, (R)-3-[4-((R)-4,5-Diamino-pentyl)-phenoxy]-propane-1,2-diol Intermediate H(R)-3-[4-((R)-4,5-Diamino-pentyl)-phenoxy]-propane-1,2-diol; [M+H]+ 269

reactant | {(R)-2-tert-Butoxycarbonylamino-5-[4-((R)-2,3-dihydroxy-propoxy)-phenyl]-pentyl}-carbamic acid tert-butyl ester | 0.201 mmol, 94 mg | C(C)(C)(C)OC(NC[C@@H](CCCC1=CC=C(C=C1)OC[C@@H](CO)O)NC(=O)OC(C)(C)C)=O | C24H40N2O7
reactant | HCl | 1 M | Cl | ClH
solvent | Et2O | 3 ml | CCOCC | C4H10O
product | (R)-3-[4-((R)-4,5-Diamino-pentyl)-phenoxy]-propane-1,2-diol | N[C@H](CCCC1=CC=C(OC[C@@H](CO)O)C=C1)CN | C14H24N2O3
